2181-05-01 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2181-4-30**] 08:00 PM
   Temporary pacer from OSH placed via RIJ, single lumen with no central
   access port or sidearm
 TRANSTHORACIC ECHO - At [**2181-4-30**] 08:59 PM
 PAN CULTURE - At [**2181-4-30**] 11:00 PM
 ARTERIAL LINE - START [**2181-5-1**] 01:30 AM
 EKG - At [**2181-5-1**] 02:40 AM
 EKG - At [**2181-5-1**] 04:30 AM
   intrinsic rhythm on monitor
   -Overnight the patient had his pacer wire advanced so that it was in a
   better position.
   - BP was low in the 80s-90s systolic despite 500 cc NS bolus x 4.
   - unable to wean levophed (despite only using a small dose)
   - CXR showed question of mediastinal widening, but repeat CXR was
   stable.
   - bedside echo showed trace effusion
   - was started on empiric antibiotics
   - was given dexamethasone for concern of adrenal insufficiency
   contributing to hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2181-5-1**] 03:45 AM
   Vancomycin - [**2181-5-1**] 04:15 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-4-30**] 10:15 PM
   Midazolam (Versed) - [**2181-4-30**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-1**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.2
   HR: 80 (65 - 87) bpm
   BP: 101/47(65) {81/40(53) - 139/57(87)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  1,644 mL
                                                                    906 mL
   PO:
             TF:
   IVF:
                                                                  1,644 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                    260 mL
   Urine:
                                                                     65 mL
                                                                     60 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 978 (978 - 978) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/36/156/19/-5
   Ve: 8.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Gen: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP difficult to assess [**2-27**] prominent carotid pulse
   and EJ, but ~10 cm.
   CV: RR, prominent S1, S2. GIII holosystolic murmer at apex, GII
   holosystolic murmer at LSB, GII systolic murmer at RUSB. RV heave. No
   S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Rales at bases b/l, no wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c. 2+ pitting edema at ankles.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas. Bandaged left
   second toe.
   .
   Pulses:
   Right: Carotid 2+ DP thready
   Left: Carotid 2+ DP thready
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   10.1 g/dL
   133 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.9 mEq/L
   50 mg/dL
   111 mEq/L
   141 mEq/L
   32.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2181-4-30**]  06:42 PM
                             [**2181-4-30**]  07:45 PM
                             [**2181-5-1**]  01:59 AM
                             [**2181-5-1**]  04:45 AM
                             [**2181-5-1**]  04:51 AM
   WBC
   14.4
   8.8
   Hct
   34.6
   32.4
   Plt
   343
   276
   Cr
   2.3
   2.7
   TropT
   0.18
   0.30
   TCO2
   22
   21
   20
   Glucose
   191
   133
   Other labs: PT / PTT / INR:24.9/31.1/2.4, CK / CKMB /
   Troponin-T:87//0.30, ALT / AST:790/673, Alk Phos / T Bili:135/0.3,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, LDH:1406 IU/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART BLOCK, COMPLETE (CHB)
   Mr. [**Known lastname 12424**] is a [**Age over 90 **] year-old man with a history of moderate aortic
   stenosis (1-1.2 cm2), aortic regurg, first-degree AV block, recent
   DVT/PE on coumadin (diagnosed ~[**2181-4-24**]), HTN, CKD, and left BKA who is
   transferred from [**Hospital1 5**]-[**Location (un) 3**] for management of third degree av block.
   .
   # Complete heart block:  Unclear etiology, may be related to coronary
   ischemia though does not carry diagnosis of CAD, not on beta blockers
   or calcium channel blockers at baseline, no evidence of myocarditis.
   Electrolytes not significantly abnormal to suggest cause.
   - continue transvenous pacing
   - EP taking patient to lab for possible procedure today
   - f/u cardiac enzymes
   - am EKG
   - f/u tsh, spep/upep
   - ECHO to eval for cardiomyopathy
   .
   # Hypotension:  Was hypertensive on arrival to OSH and levophed
   initiated in setting of intubation and propofol.  DDx includes propofol
   effect, bradycardia, hypovolemia; would also consider pericardial
   tamponade given pacer wire placement, Sepsis, and adrenal
   insufficiency.  PE less likely.  Has stable aortic stenosis.
   - IVF bolus PRN
   - attempt to place central line to monitor CVP
   - wean pressors as tolerated
   - check ECHO
   - blood, urine, sputum cultures
   - cover empirically for infection
   - [**Last Name (un) **] stim test to r/o adrenal insufficiency
   .
   # Respiratory failure:  Intubated for airway protection in setting of
   bradycardia and asytole.  Likely aspirated given gastric contents from
   ETT so may have also developed pneumonitis/pneumonia.
   - continue current vent settings
   - sputum cultures
   - continue broad spectrum antibiotics
   .
   # Recent DVT/likely PE:  Diagnosed ~[**2181-4-24**] with DVT in left lower
   extremity, also with probable PE on v/q scan.
   - hold coumadin for now given likely EP procedure
   - received low dose vitamin k
   - monitor respiratory status
   .
   #  Acute kidney injury/ oliguria:  Baseline creatinine 1.8. Pt has not
   produced urine.  Likely Atn caused by hypoperfusion of kidneys.
   - renal consult
   - spin urine
   - kidney U/S
   .
   # Tophaceous gout: On chronic steroids, allopurinol, colchicine
   - continue prednisone at current dose
   - continue allopurinol
   - will hold colchicine pending creatinine check
   - [**Last Name (un) **] stim test as above
   .
   FEN:  NPO, IVFs
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with warfarin
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM:  [**Name (NI) 10927**] [**Name (NI) 12424**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12426**] c, [**Telephone/Fax (2) 12427**]h. [**Hospital3 12428**]
   nursing home in [**Location (un) 1494**], [**Telephone/Fax (1) 12429**] ([**Doctor First Name 735**])
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: NPO, intubated
   Glycemic Control:
   Lines: PIV, Arterial line, transvenous pacer in right IJ
   Cordis/Introducer - [**2181-4-30**] 08:00 PM
   20 Gauge - [**2181-4-30**] 08:00 PM
   Arterial Line - [**2181-5-1**] 01:30 AM
   Prophylaxis:
   DVT: supratheraputic
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12333**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2181-5-2**] 14:30 ------

2181-05-02 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2181-5-1**] 08:28 AM
 CORDIS/INTRODUCER - STOP [**2181-5-1**] 11:00 AM
   Temporary pacer from OSH placed via RIJ, single lumen with no central
   access port or sidearm
 MULTI LUMEN - START [**2181-5-1**] 12:00 PM
 TRANSTHORACIC ECHO - At [**2181-5-1**] 03:35 PM
   - family provides additional history of several unexplained syncopal
   episodes in last few days
   - weaning levephed
   - changed abx from cefipime to cipro/zosyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2181-5-1**] 03:45 AM
   Vancomycin - [**2181-5-1**] 04:15 AM
   Ciprofloxacin - [**2181-5-1**] 04:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-5-1**] 05:56 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-5-1**] 04:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 72 (70 - 86) bpm
   BP: 91/49(64) {86/42(58) - 140/60(92)} mmHg
   RR: 17 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,618 mL
                                                                    146 mL
   PO:
             TF:
   IVF:
                                                                  1,558 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    180 mL
   Urine:
                                                                    475 mL
                                                                    180 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    943 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/33/172/18/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 430
   Physical Examination
   .
   GENERAL: intubated, sedated but arousable to verbal stimulus, follows
   commands
   HEENT: ETT in place, PERRL
   NECK: Supple with JVP undetectable
   CARDIAC:  reg rate and rhythm, [**3-3**] SM, distant heart sounds
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB
   ABDOMEN: Soft, distended.
   EXTREMITIES: left BKA, extremities cool
   SKIN: multiple tophi involving right elbow, fingers
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   9.7 g/dL
   153 mg/dL
   3.7 mg/dL
   18 mEq/L
   5.1 mEq/L
   68 mg/dL
   111 mEq/L
   141 mEq/L
   29.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2181-4-30**]  06:42 PM
                             [**2181-4-30**]  07:45 PM
                             [**2181-5-1**]  01:59 AM
                             [**2181-5-1**]  04:45 AM
                             [**2181-5-1**]  04:51 AM
                             [**2181-5-1**]  05:02 PM
                             [**2181-5-1**]  05:06 PM
                             [**2181-5-2**]  03:53 AM
                             [**2181-5-2**]  04:18 AM
   WBC
   14.4
   8.8
   7.7
   Hct
   34.6
   32.4
   29.8
   Plt
   343
   276
   231
   Cr
   2.3
   2.7
   3.3
   3.7
   TropT
   0.18
   0.30
   0.26
   0.20
   TCO2
   22
   21
   20
   20
   21
   Glucose
   191
   133
   167
   153
   Other labs: PT / PTT / INR:16.4/27.4/1.5, CK / CKMB /
   Troponin-T:40//0.20, ALT / AST:541/160, Alk Phos / T Bili:107/0.5,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:278 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12424**] is a [**Age over 90 **] year-old man with a history of moderate aortic
   stenosis (1-1.2 cm2), aortic regurg, first-degree AV block, recent
   DVT/PE on coumadin (diagnosed ~[**2181-4-24**]), HTN, CKD, and left BKA who is
   transferred from [**Hospital1 5**]-[**Location (un) 3**] for management of third degree av block.
   .
   # Complete heart block:  Unclear etiology, may be related to coronary
   ischemia though does not carry diagnosis of CAD, not on beta blockers
   or calcium channel blockers at baseline, no evidence of myocarditis on
   echo.  Electrolytes not significantly abnormal to suggest cause.
   Yesterday had pacemaker leads screwed in with extrernal pacer.
   Troponin elevated and trending down
   - continue pacing and await permanent PM when stable
   - am EKG
   - f/u tsh, spep/upep
   .
   # Hypotension:  Was hypertensive on arrival to OSH and levophed
   initiated in setting of intubation and propofol. Received IVF but not
   responsive initially.  Over the last 24 hrs levophed has since been
   weaned.  His initial hyotension was not from tampenade (confirmed by
   echo) and was likely from sepsis verus cardiogenic shock vs adrenal
   insufficiency.  Propofol may have also contributed.  Central line
   placed.
   - continue cipro/zosyn (Cefepime was stopped [**5-1**])
   - IVF bolus PRN
   - monitor CVP
   - f/u blood, urine, sputum cultures
   - cover empirically for infection
   .
   # Respiratory failure:  Intubated for airway protection in setting of
   bradycardia and asytole.  Likely aspirated given gastric contents from
   ETT so may have also developed pneumonitis/pneumonia. RSBI was 102 this
   am
   - attempt extubation today
   - f/u sputum cultures
   - continue broad spectrum antibiotics
   .
   # Recent DVT/likely PE:  Diagnosed ~[**2181-4-24**] with DVT in left lower
   extremity, also with probable PE on v/q scan.
   - hold coumadin for now
   - talk with EP about restarting hep gtt (likely tomorrow)
   - monitor respiratory status
   .
   #  Acute kidney injury/ oliguria:  Baseline creatinine 1.8. Likely Atn
   caused by hypoperfusion of kidneys.  Pt now producing small amount of
   urine.
   - follow urine output
   .
   # Tophaceous gout: On chronic steroids, allopurinol, colchicine
   - increase PO prednisone to 10 mg (for stress dose)
   - continue allopurinol
   - will hold colchicine pending creatinine check
   .
   FEN:  NPO for now
   - start PO when extubated
   - consider S and S
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, holing Coumadin and hep as above s/p
   pacemaker placement yesterday
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM:  [**Name (NI) 10927**] [**Name (NI) 12424**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12426**] c, [**Telephone/Fax (2) 12427**]h. [**Hospital3 12428**]
   nursing home in [**Location (un) 1494**], [**Telephone/Fax (1) 12429**] ([**Doctor First Name 735**])
   .
   DISPO: CCU for now
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART BLOCK, COMPLETE (CHB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: 3 peripherals, 1 tripple lumen in IJ, art line
   20 Gauge - [**2181-4-30**] 08:00 PM
   Arterial Line - [**2181-5-1**] 01:30 AM
   Multi Lumen - [**2181-5-1**] 12:00 PM
   Prophylaxis:
   DVT: holding as above, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12333**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2181-5-2**] 14:29 ------

2181-05-03 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-5-2**] 11:00 AM
   - did not restart heparin b/c of bleeding around pacemaker
   - Extubated yesterday a.m. without difficulty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2181-5-1**] 03:45 AM
   Vancomycin - [**2181-5-2**] 10:00 AM
   Ciprofloxacin - [**2181-5-2**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-5-2**] 11:35 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-3**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 73 (71 - 101) bpm
   BP: 113/56(78) {95/44(62) - 166/71(110)} mmHg
   RR: 13 (6 - 26) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 92.3 kg (admission): 90.1 kg
             Total In:
                                                                  1,053 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                  1,053 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    722 mL
                                                                    300 mL
   Urine:
                                                                    722 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    331 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 8 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.37/33/168/18/-4
   Ve: 6.6 L/min
   PaO2 / FiO2: 336
   Physical Examination
   GENERAL: alert and oriented x 1, thought he was at [**Hospital3 **],
   could not remember month or year, but knew [**Last Name (un) 2761**] was the president
   HEENT: dry MM
   NECK: Supple with JVP undetectable
   CARDIAC:  reg rate and rhythm, [**3-3**] SM, distant heart sounds
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB
   ABDOMEN: Soft, distended.
   EXTREMITIES: left BKA, extremities cool, 2+ Right pedal edema
   SKIN: multiple tophi involving right elbow, fingers
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   9.4 g/dL
   143 mg/dL
   3.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   75 mg/dL
   111 mEq/L
   141 mEq/L
   28.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2181-5-1**]  01:59 AM
                             [**2181-5-1**]  04:45 AM
                             [**2181-5-1**]  04:51 AM
                             [**2181-5-1**]  05:02 PM
                             [**2181-5-1**]  05:06 PM
                             [**2181-5-2**]  03:53 AM
                             [**2181-5-2**]  04:18 AM
                             [**2181-5-2**]  10:49 AM
                             [**2181-5-2**]  02:44 PM
                             [**2181-5-3**]  03:29 AM
   WBC
   8.8
   7.7
   7.8
   Hct
   32.4
   29.8
   28.4
   Plt
   [**Telephone/Fax (3) 12466**]
   Cr
   2.7
   3.3
   3.7
   3.8
   3.8
   TropT
   0.30
   0.26
   0.20
   TCO2
   21
   20
   20
   21
   20
   Glucose
   133
   167
   153
   144
   143
   Other labs: PT / PTT / INR:16.1/25.7/1.4, CK / CKMB /
   Troponin-T:40//0.20, ALT / AST:396/73, Alk Phos / T Bili:91/0.5,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:278 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 12424**] is a [**Age over 90 **] year-old man with a history of moderate aortic
   stenosis (1-1.2 cm2), aortic regurg, first-degree AV block, recent
   DVT/PE on coumadin (diagnosed ~[**2181-4-24**]), HTN, CKD, and left BKA who is
   transferred from [**Hospital1 5**]-[**Location (un) 3**] for management of third degree av block.
   .
   # Complete heart block:  Unclear etiology, but likely from conduction
   problems from old age/calcium deposits.  [**2181-5-1**] had pacemaker leads
   screwed in with extrernal pacer.
   - continue pacing and await permanent PM when stable (contact EP to let
   know he is doing well)
   - am EKG
   .
   # Hypotension:  Was hypertensive on arrival to OSH and levophed
   initiated in setting of intubation and propofol. Received IVF but not
   responsive initially.  Pressors have since been weaned.  His initial
   hyotension was not from tampenade (confirmed by echo) and was likely
   from cardiogenic shock vs adrenal insufficiency vs Propofol.  Sepsis
   unlikely given no fever or white count.  Central line placed.  Urine
   and sputum no growth, blood cx still pending but NGTD.
   - consider stopping antibiotics
   - IVF bolus PRN
   .
   # Respiratory failure:  Intubated for airway protection in setting of
   bradycardia and asytole.  Successfully extubated yesterday.
   .
   # Recent DVT/likely PE:  Diagnosed ~[**2181-4-24**] with DVT in left lower
   extremity, also with probable PE on v/q scan.
   -restart hep gtt today
   - will need to restat Coumadin eventually (after PM internalized)
   .
   #  Acute kidney injury/ oliguria:  Baseline creatinine 1.8. Likely Atn
   caused by hypoperfusion of kidneys.  Pt now producing urine, and
   creatinine elevated but stable.
   - follow urine output
   .
   # Tophaceous gout: On chronic steroids, allopurinol, colchicine
   - increase PO prednisone to 10 mg (for stress dose) however, pt not
   taking good PO yet
   - continue allopurinol
   - will hold colchicine pending creatinine check
   .
   FEN:
   - not taking in good PO since extubated (anorexia)
   - encourage PO
   - consider S and S
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, restart hep gtt
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM:  [**Name (NI) 10927**] [**Name (NI) 12424**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12426**] c, [**Telephone/Fax (2) 12427**]h. [**Hospital3 12428**]
   nursing home in [**Location (un) 1494**], [**Telephone/Fax (1) 12429**] ([**Doctor First Name 735**])
   .
   DISPO: CCU for now
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART BLOCK, COMPLETE (CHB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-30**] 08:00 PM
   Arterial Line - [**2181-5-1**] 01:30 AM
   Multi Lumen - [**2181-5-1**] 12:00 PM
   Prophylaxis:
   DVT: hep gtt restarted
   Communication:  patient
   Code status: Full code
   Disposition: call out to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12333**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2181-5-3**] 15:42 ------

2181-05-05 07:31:00 Physician Resident Progress Note
Chief Complaint: Complete heart block, now s/p PPM placement.
   24 Hour Events:
   [**5-4**]
   EP
   - Start heparin gtt at 8am (at least 12 hours after procedure), at
   lower sliding scale as was supratherapeutic often,
   - PA/LAT ordered
   - Got 1 dose of vanc and with ARF, no need for further abx
   - Device clinic set up 1 week
   - Dose
   [**5-3**]
   - EP aware that renal function improving, no room on schedule tomorrow
   for pacemaker placement so will have to wait until next week (?monday)
   - hypertensive to 195/100 (in setting of family in room and struggling
   with PO) so gave PO hydralazine and quieted room, pressures returned to
   120s
   - ordered Speech and swallow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-5-2**] 10:00 AM
   Ciprofloxacin - [**2181-5-2**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-5-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2181-5-4**] 01:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-5-5**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 67 (61 - 78) bpm
   BP: 132/54(73) {118/51(70) - 188/78(108)} mmHg
   RR: 23 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 92 kg (admission): 90.1 kg
   Height: 68 Inch
                  Total In:
                                                                    124 mL
                  PO:
                  TF:
   IVF:
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    560 mL
   Urine:
                                                                  1,715 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,591 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   GENERAL: alert and oriented x 1, thought he was at [**Hospital3 **],
   could not remember month or year, but knew [**Last Name (un) 2761**] was the president
   HEENT: dry MM
   NECK: Supple with JVP undetectable
   CARDIAC:  reg rate and rhythm, [**3-3**] SM, distant heart sounds
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB
   ABDOMEN: Soft, distended.
   EXTREMITIES: left BKA, extremities cool, 2+ Right pedal edema
   SKIN: multiple tophi involving right elbow, fingers
   Labs / Radiology
   247 K/uL
   9.7 g/dL
   97 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   70 mg/dL
   113 mEq/L
   143 mEq/L
   28.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2181-5-1**]  04:51 AM
                             [**2181-5-1**]  05:02 PM
                             [**2181-5-1**]  05:06 PM
                             [**2181-5-2**]  03:53 AM
                             [**2181-5-2**]  04:18 AM
                             [**2181-5-2**]  10:49 AM
                             [**2181-5-2**]  02:44 PM
                             [**2181-5-3**]  03:29 AM
                             [**2181-5-4**]  05:57 AM
                             [**2181-5-5**]  04:07 AM
   WBC
   7.7
   7.8
   7.9
   5.4
   Hct
   29.8
   28.4
   27.0
   28.2
   Plt
   [**Telephone/Fax (3) 12519**]47
   Cr
   3.3
   3.7
   3.8
   3.8
   3.4
   3.0
   TropT
   0.26
   0.20
   TCO2
   20
   20
   21
   20
   Glucose
   167
   153
   144
   143
   143
   97
   Other labs: PT / PTT / INR:14.6/24.0/1.3, CK / CKMB /
   Troponin-T:40//0.20, ALT / AST:260/31, Alk Phos / T Bili:78/0.4,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:227 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: PA & lateral from [**5-5**]
   Microbiology: No significant growth.
   ECG: No event on telemetry.
   Assessment and Plan
   Mr. [**Known lastname 12424**] is a [**Age over 90 **] year-old man with a history of moderate aortic
   stenosis (1-1.2 cm2), aortic regurg, first-degree (now intermittent
   third-degree) AV block, recent DVT/PE on coumadin (diagnosed ~[**2181-4-24**]),
   HTN, CKD, and left BKA who is transferred from [**Hospital1 5**]-[**Location (un) 3**] for
   management of third degree AV block.
   # Complete heart block
   Unclear etiology, but likely from conduction problems from old
   age/calcium deposits.  [**2181-5-1**] had pacemaker leads screwed in with
   external pacer. Now, yesterday, internalized on left, incision on right
   closed. Uncomplicated.
   - Restarted heparin drip now, along with coumadin
   - Actually in sinus rhythm again this a.m.
   # Recent DVT/likely PE
   Diagnosed ~[**2181-4-24**] with DVT in left lower extremity, also with probable
   PE on v/q scan.
   - Restart heparin and Coumadin now that procedure completed
   #  Acute kidney injury/ oliguria
   Baseline creatinine 1.8. Likely Atn caused by hypoperfusion of
   kidneys.  Pt now producing urine, and creatinine elevated but trending
   down. Thus, dialysis not necessary given CrCl now.
   - follow urine output
   - trend creatinine
   # Hypertension
   Normotensive now, but hypertensive on one occasion overnight.
   - [**Month (only) 8**] consider starting antihypertensive, considering hydralazine and
   calcium channel antagonist
   - continue to monitor
   # Hematuria
   Likely from Foley trauma while on hep gtt.  Reportedly the patient had
   been tugging on his foley last night with supratheraputic hep gtt.
   # Dysphagia
   Pt earlier had trouble swallowing food and gagged/brought up food on
   [**5-3**], but now tolerating Pos with strict supervision for now.  Known to
   have baseline dysphagia and probably would prefer soft diet.  [**Month (only) 8**] have
   some difficulty s/p intubation.
   - Speech and swallow evaluation
   # Respiratory failure:  Intubated for airway protection in setting of
   bradycardia and asytole.  Successfully extubated [**2181-5-2**]
   # Hypotension: Resolved.  Antibiotics and central line D/C
   # Tophaceous gout: On chronic steroids, allopurinol, colchicine
   - Continue PO prednisone to 10 mg (for stress dose)
   - Restart allopurinol
   - Will hold colchicine, given no active pain and pending improved renal
   function.
   FEN:
   - No IVF
s for now
   - Electrolytes PRN
   - Hear Healthy diet with supervision
   ACCESS:
   PIV's
 removed and one new IV placed this a.m.
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, hep gtt, coumadin
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM:  [**Name (NI) 10927**] [**Name (NI) 12424**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12426**] c, [**Telephone/Fax (2) 12427**]h. [**Hospital3 12428**]
   nursing home in [**Location (un) 1494**], [**Telephone/Fax (1) 12429**] ([**Doctor First Name 735**])
   Dispo:
   - To floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-4-30**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU